US06995144B2
2-(2-Fluorophenyl)-1-(piperidin-4-yl)ethanone hydrochloride
After dissolving 1.27 g of 1-(1-benzylpiperidin-4-yl)-2-(2-fluorophenyl)ethanone in 8 ml of 1,2-dichloroethane, 0.53 ml of 1-chloroethyl chloroformate was added while stirring on ice, and the mixture was heated to reflux for 1 hour. The solvent was distilled off under reduced pressure, 8 ml of methanol was added to the residue, and heating to reflux was continued for 40 minutes. The solvent was distilled off under reduced pressure, ethyl acetate was added to the residue, and the precipitate was filtered out to obtain the title compound (970 mg, 92% yield).

reactant | 1-(1-benzylpiperidin-4-yl)-2-(2-fluorophenyl)ethanone | 1.27 g | C(C1=CC=CC=C1)N1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C20H22FNO
reactant | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
solvent | 1-chloroethyl chloroformate | 0.53 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | 2-(2-Fluorophenyl)-1-(piperidin-4-yl)ethanone hydrochloride | 970 mg, 92% yield | Cl.FC1=C(C=CC=C1)CC(=O)C1CCNCC1 | InChI=1S/C13H16FNO.ClH/c14-12-4-2-1-3-11(12)9-13(16)10-5-7-15-8-6-10;/h1-4,10,15H,5-9H2;1H
